US05488055
A mixture of 2-chloro-4-nitrobenzoic acid (4.03 g, 0.02 mol), 5-amino-1-ethylpyrazole (2.22 g, 0.02 mol), DMF (25 ml), K2CO3 (2.76 g, 0.02 mol) and Cu(OAc)2.H2O (0.5 g) was refluxed for 24 hours. The reaction mixture was cooled to room temperature, poured into ice-water and then acidified with acetic acid to a pH of 5. A solid formed which was collected by filtration and dried to afford 3.5 g (63%) of N-(1-ethylpyrazol-5-yl)-4-nitroanthranilic acid.

reactant | 2-chloro-4-nitrobenzoic acid | 0.02 mol, 4.03 g | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 5-amino-1-ethylpyrazole | 0.02 mol, 2.22 g | NC1=CC=NN1CC | C5H9N3
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | 0.02 mol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Cu(OAc)2.H2O | 0.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(1-ethylpyrazol-5-yl)-4-nitroanthranilic acid | 3.5 g, 63% | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC=C(C1)[N+](=O)[O-] | C12H12N4O4
